US08426417B2
Step (f). 5-(2-amino-pyrimidin-4-yl)-2-bromo-1H-pyrrole-3-carboxylic acid ethyl ester
A solution of 4-(2-amino-pyrimidin-4-yl)-2-cyano-4-oxo-butyric acid ethyl ester (364 mg, 1.47 mmol) in anhydrous Et2O and DCM (1:1 10 mL) was added dropwise to 4.5 mL of 33% HBr in AcOH at 0° C. The mixture was left at 0° C. for 30 min and then at rt until disappearance of the starting material. The solid was filtered, washed with acetone and MeOH, neutralized with 7N NH3 in MeOH to afford 400 mg (88%) of the title compound.

reactant | 4-(2-amino-pyrimidin-4-yl)-2-cyano-4-oxo-butyric acid ethyl ester | 1.47 mmol, 364 mg | C(C)OC(C(CC(=O)C1=NC(=NC=C1)N)C#N)=O | C11H12N4O3
reactant | HBr | 4.5 mL | Br | BrH
solvent | Et2O | CCOCC | C4H10O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | CC(=O)O | C2H4O2
product | 5-(2-amino-pyrimidin-4-yl)-2-bromo-1H-pyrrole-3-carboxylic acid ethyl ester | 400 mg, 88% | C(C)OC(=O)C1=C(NC(=C1)C1=NC(=NC=C1)N)Br | C11H11BrN4O2
